VVDD N1 GND 5
RR1 N1 N2 1
LL1 N2 N3 1n
CC1 N3 GND 1p
RR2 N3 N4 10
LL2 N4 N5 1n
CC2 N5 GND 1p
RR3 N5 N6 100
LL3 N6 N7 1n
CC3 N7 GND 1p
RR4 N7 GND 30

.debug 1
.pz V(N7) V(N1)
.option pzorder=2

