VVDD N1 GND 5
RR1 N1 N2 1
LL1 N2 N3 1m
CC1 N3 GND 1m
RR2 N3 N4 10
LL2 N4 N5 1m
CC2 N5 GND 1m
RR3 N5 N6 100
LL3 N6 N7 1m
CC3 N7 GND 1m
RR4 N7 GND 30

.debug 1
.pz V(N7) V(N1)
.option pzorder=4

